US20010016570A1
E. 2-tert-Butoxycarbonylamino-3-(2,4-difluoro-benzyloxy)-propionic acid
To a solution of N-Boc-(D)-serine (452 g, 2.2026 mol) in a mixture of THF (7 L) and DMF (3 L) at about 0° C. was added potassium tert-butoxide solution (515.8 g, 4.5963 mol). The reaction mixture was stirred at about 0° C. for about 30 min., then 2,4-difluorobenzyl bromide (456.5 g, 2.2051 mol) was added. After warming to room temperature, the reaction mixture was concentrated in vacuo to remove the THF. Partitioned the reaction mixture between 4.5 L H2O and 4.5 L IPE. Separated the layers and adjusted the pH of the aqueous layer with 1 N HCl to about 3. The aqueous layer was extracted twice with 4 L each of IPE. The organic solution was dried over Na2SO4, and concentrated in vacuo to yield a yellow waxy solid (518.0 g, yield: 70.9%). 1H-NMR (CDCl3) δ 1.44 (s, 9H), 3.73 (m, 1H), 3.94 (d, 1H), 4.44 (br s, 1H), 4.54 (s, 2H), 5.34 (m, 1H), 6.78 (m, 1H), 6.84 (m, 1H), 730 (m, 1H).

reactant | N-Boc-(D)-serine | 2.2026 mol, 452 g | C(=O)(OC(C)(C)C)N[C@H](CO)C(=O)O | C8H15NO5
reactant | potassium tert-butoxide | 4.5963 mol, 515.8 g | CC(C)([O-])C.[K+]
reactant | 2,4-difluorobenzyl bromide | 2.2051 mol, 456.5 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | THF | 7 L | C1CCOC1 | C4H8O
solvent | DMF | 3 L | CN(C)C=O | C3H7NO
product | 2-tert-Butoxycarbonylamino-3-(2,4-difluoro-benzyloxy)-propionic acid | 518.0 g, yield: 70.9% | C(C)(C)(C)OC(=O)NC(C(=O)O)COCC1=C(C=C(C=C1)F)F | C15H19F2NO5
